US07354932B2
To a solution of 2-{4-[(1-Methyl-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione (0.1030 g, 0.21 mmol) in ethanol (1 mL) was added hydrazine monohydrate (0.51 mL, 10.5 mmol), and the reaction mixture was stirred at room temperature for 18 hours. The mixture was concentrated and purified first via column chromatography on silica gel (91:12:1 CH2Cl2-MeOH—NH4OH) and then by radial chromatography on silica (18:1:1 CH2Cl2-MeOH—NH4OH) to yield 0.0246 g (32%) of N1-(1-Methyl-1H-benzoimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine. 1H NMR (CDCl3) δ 1.32-1.42 (m, 5H), 1.91-2.02 (m, 2H), 2.05-2.11 (m, 1H), 2.55 (t, 2H, J=6.9 Hz), 2.60-2.64 (m, 3H), 2.76-2.86 (m, 1H), 3.98 (s, 3H), 4.04-4.17 (m, 3H), 7.00-7.04 (m, 1H), 7.21-7.27 (m, 2H), 7.30-7.33 (m, 2H), 7.68-7.72 (m, 1H), 8.47 (d, 1H, J=3.3 Hz).

reactant | 2-{4-[(1-Methyl-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | 0.21 mmol, 0.1030 g | CN1C(=NC2=C1C=CC=C2)CN(CCCCN2C(C1=CC=CC=C1C2=O)=O)C2CCCC=1C=CC=NC21 | C30H31N5O2
reactant | hydrazine monohydrate | 10.5 mmol, 0.51 mL | O.NN
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N1-(1-Methyl-1H-benzoimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 0.0246 g, 32% | CN1C(=NC2=C1C=CC=C2)CN(CCCCN)C2CCCC=1C=CC=NC21 | C22H29N5
